Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors / lactose / gluten / 
oxycodone
 
Attending: ___.
 
Chief Complaint:
Recurrent cervical dysplasia
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, cystoscopy

 
History of Present Illness:
Patient is a ___ yo G4P4 with a long history of HPV infection and 
persistent cervical dysplasia. She had a LEEP in ___ showing 
HSIL with cytopathic effect, and another LEEP in ___ showing 
HSIL and focally positive endocervical margin. Due to concern 
for residual high grade disease, recurrent cervical dysplasia, 
and no desire for future fertily, patient elected for TLH and 
BSO, for which she presented today.
 
Past Medical History:
SCIATICA                                                        
CONSTIPATION                                                    
DIABETES TYPE II                                                
SLEEP APNEA                                                     
GASTROESOPHAGEAL REFLUX                                         
IRRITABLE BOWEL SYNDROME                                        
CHRONIC LT TRAPEZIUS PAIN                                       
COMMINUTED FRACTURE DISTAL RADIUS AND AVULSION OF THE ULNAR     
STYLOID, LEFT                                                   
HEADACHE                                                        
NECK PAIN                                                       
DEPRESSION                                                      
FIBROMYALGIA                                                    
ANEMIA                                                          
VITAMIN D DEFICIENCY                                            
H/O ABNORMAL PAP SMEAR                                          

 
Social History:
___
Family History:
Father with diabetes ___, melanoma. 
Mother has a history of melanoma.
Daughter with lactose intolerance.
Paternal grandfather with bladder cancer.
No history of breast, ovarian, or colon cancers in the family. 
 
Physical Exam:
==========================================
PREOPERATIVE PHYSICAL EXAM
==========================================
General:  Well-developed, well-nourished female, in no acute
distress.    
Gynecologic:  External genitalia are unremarkable.  Scar notes 
on
the left lower labia majora, changes of biopsy.  smaller
satellite lesion just inferior to this. No other lesions.
Speculum
examination demonstrates an atrophic cervix without masses.  No
vaginal lesion, no blood or abnormal discharge. 
Extremities:  No clubbing, cyanosis or edema.  
Musculoskeletal:  No spinal tenderness and no flank tenderness.  

Neurologic:  Alert and oriented x 3.  Casual gait is narrow 
based
and normal.

==========================================
PHYSICAL EXAM ON DISCHARGE:
==========================================

On day of discharge:
Afebrile, vitals stable
Gen: No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 08:55AM BLOOD WBC-7.4 RBC-3.71* Hgb-11.6 Hct-35.5 
MCV-96 MCH-31.3 MCHC-32.7 RDW-14.3 RDWSD-48.4* Plt ___
___ 08:55AM BLOOD Plt ___
___ 08:55AM BLOOD Glucose-149* UreaN-11 Creat-0.8 Na-145 
K-3.8 Cl-107 HCO3-21* AnGap-17
___ 08:55AM BLOOD Calcium-9.5 Phos-3.8 Mg-1.9
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing a total laparoscopic hysterectomy and bilateral 
salpingo-oophorectomy on ___. Please see the operative report 
for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with dilaudid, Tylenol, 
ibuprofen. Her diet was advanced without difficulty. On 
post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

For her history of type 2 diabetes she was monitored with 
fingersticks which were all at goal.  On postop day #1 she was 
continued on her home dose of liraglutide.  Her history of sleep 
apnea she was monitored on telemetry with no episodes of 
desaturations.  For her history of fibromyalgia, she was 
continued on her home doses of gabapentin.  For her history of 
migraines, she was continued on her home dose of topiramate.

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
BUPROPION HCL - bupropion HCl XL 300 mg 24 hr tablet, extended
release. tablet(s) by mouth once a day -  (Prescribed by Other
Provider)
FENOFIBRATE NANOCRYSTALLIZED - fenofibrate nanocrystallized 48 
mg
tablet. TAKE 1 TABLET BY MOUTH EVERY DAY
GABAPENTIN - gabapentin 300 mg capsule. TAKE 1 CAPSULE(S) BY
MOUTH EVERY 8 HOUR
LIDOCAINE - lidocaine 5 % topical ointment. Apply thin layer of
gel on painful area of vulva every eight (8) hours as needed for
vulvar pain
LIRAGLUTIDE [VICTOZA 3-PAK] - Victoza 3-Pak 0.6 mg/0.1 mL (18
mg/3 mL) subcutaneous pen injector. 1.8 mg injected once a day - 

(Prescribed by Other Provider)
MIGRAVENT -
OMEPRAZOLE - omeprazole 40 mg capsule,delayed release. one
capsule(s) by mouth twice a day
TOPIRAMATE -
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild  
4.  Topiramate (Topamax) 100 mg PO QHS  
5.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
6.  Gabapentin 400 mg PO BID  
7.  Topiramate (Topamax) 25 mg PO QAM  
8.  TraZODone 50 mg PO QHS:PRN sleep  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cervical dysplasia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. ___ have recovered well 
after your operation, and the team feels that ___ are safe to be 
discharged home. Please follow these instructions: 
 
* Take your medications as prescribed. We recommend ___ take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
___ start to feel better and need less medication, ___ should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. ___ were 
prescribed Colace. If ___ continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
___ can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 
___ weeks. (3 months if rad hyst)
* No heavy lifting of objects >10 lbs for 4 weeks.  
* ___ may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* ___ may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* ___ should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, ___ may remove them.  

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if ___ are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___